US04001421
A mixture containing 10 g. of 2-bromo-5-methoxycarbonylthiazole, 100 ml. of 10% aqueous sodium hydroxide and 200 ml. of methanol is stirred at 0° C for 5 minutes. The methanol is distilled off in vacuo and the resulting concentrate extracted twice with ethyl acetate. The remaining aqueous phase is acidified by the careful addition of dilute aqueous hydrochloric acid resulting in the formation of a precipitate which is then recovered by filtration and dried under vacuum yielding 2-bromo-5-carboxythiazole.

reactant | 2-bromo-5-methoxycarbonylthiazole | BrC=1SC(=CN1)C(=O)OC | C5H4BrNO2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-bromo-5-carboxythiazole | BrC=1SC(=CN1)C(=O)O | C4H2BrNO2S
